US06528510B1
4-tert-Butyl-1-methyl-2-nitrobenzene
Nitration was performed as described in General Method 12 using tert-butyl-4-methylbenzene (25 g), concentrated H2SO4 (92 g), 70% HNO3 (82 g), and H2O (25 g). The crude product was purified via distillation under vacuum.

reactant | tert-butyl-4-methylbenzene | 25 g | C(C)(C)(C)C1=CC=C(C=C1)C | C11H16
reactant | H2SO4 | 92 g | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 82 g | [N+](=O)(O)[O-] | HNO3
solvent | H2O | 25 g | O | H2O
product | 4-tert-Butyl-1-methyl-2-nitrobenzene | C(C)(C)(C)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H15NO2
